US07144913B2
Step 1: methyl 4-bromo-1-(4-ethoxy-4-oxobutyl)-6-fluoro-1H-indole-2-carboxylate
To a solution of methyl 4-bromo-6-fluoro-1H-indole-2-carboxylate (10 g, 36.8 mmol) in DMF (100 mL) at 0° C. was added NaH (1.8 g, 44.2 mmol, 60% in oil). The mixture was stirred at r.t. for 30 minutes and tetra-n-butylammonium iodide (500 mg) was added, followed by the addition of ethyl 4-bromobutyrate (10.1 g, 51.5 mmol). The reaction mixture was stirred at r.t. for 3 h, poured into saturated aqueous NH4Cl and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography eluted with 20% EtOAc to give 13.2 g of the title compound.

reactant | methyl 4-bromo-6-fluoro-1H-indole-2-carboxylate | 36.8 mmol, 10 g | BrC1=C2C=C(NC2=CC(=C1)F)C(=O)OC | C10H7BrFNO2
reactant | NaH | 44.2 mmol, 1.8 g | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | 51.5 mmol, 10.1 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | tetra-n-butylammonium iodide | 500 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | methyl 4-bromo-1-(4-ethoxy-4-oxobutyl)-6-fluoro-1H-indole-2-carboxylate | 13.2 g | BrC1=C2C=C(N(C2=CC(=C1)F)CCCC(=O)OCC)C(=O)OC | C16H17BrFNO4
